US07183414B2
N-Phenyltrifluoromethanesulfonimide (PhN(Tf)2, 2.72 g, 7.6 mmol, 1.1 equivalents), 2-[5-(3-Methyl-oxetan-3-ylmethoxy)-benzoimidazol-1-yl]-quinolin-8-ol(2.5 g, 6.9 mmol, 1.0 equivalent), DMF (7.5 mL, 3 volumes), and then triethylamine (1.9 mL, 13.8 mmol, 2.0 equivalents) were charged to a 50 mL round bottom flask. The slurry was stirred at 20–30° C. for 20–30 hours. After the stirring period, the reaction was filtered and washed with DMF (2.5 mL, 1 volume), followed by isopropyl ether (5 mL, 2 volumes) to yield, after drying under vacuum at 40° C. with a slight nitrogen bleed, 2.9 g trifluoro-methanesulfonic acid 2-[5-(3-methyl-oxetan-3-ylmethoxy)-benzoimidazol-1-yl]-quinolin-8-yl ester as an off-white solid (85% yield).

reactant | N-Phenyltrifluoromethanesulfonimide | 7.6 mmol, 2.72 g, 1.1 equivalents | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | 2-[5-(3-Methyl-oxetan-3-ylmethoxy)-benzoimidazol-1-yl]-quinolin-8-ol | 6.9 mmol, 2.5 g, 1.0 equivalent | CC1(COC1)COC1=CC2=C(N(C=N2)C2=NC3=C(C=CC=C3C=C2)O)C=C1 | C21H19N3O3
reactant | triethylamine | 13.8 mmol, 1.9 mL, 2.0 equivalents | C(C)N(CC)CC | C6H15N
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
product | trifluoro-methanesulfonic acid 2-[5-(3-methyl-oxetan-3-ylmethoxy)-benzoimidazol-1-yl]-quinolin-8-yl ester | 2.9 g, 85% yield | CC1(COC1)COC1=CC2=C(N(C=N2)C2=NC3=C(C=CC=C3C=C2)OS(=O)(=O)C(F)(F)F)C=C1 | C22H18F3N3O5S
